US06348468B1
Preparation of 2-ethyl-5-(3-fluoro-4-methoxyphenyl)-6-(4-methoxyphenyl)-2H-pyridazin-3-one
Using 5-(3-fluoro-4-methoxyphenyl)-6-(4-methoxyphenyl)-2H-pyridazin-3-one and ethyl iodide as starting materials, the procedures of Example 146 were repeated likewise, whereby the title compound was obtained in a yield of 97.8%.

reactant | 5-(3-fluoro-4-methoxyphenyl)-6-(4-methoxyphenyl)-2H-pyridazin-3-one | FC=1C=C(C=CC1OC)C1=CC(NN=C1C1=CC=C(C=C1)OC)=O | C18H15FN2O3
reactant | ethyl iodide | C(C)I | C2H5I
product | 2-ethyl-5-(3-fluoro-4-methoxyphenyl)-6-(4-methoxyphenyl)-2H-pyridazin-3-one | yield of 97.8% | C(C)N1N=C(C(=CC1=O)C1=CC(=C(C=C1)OC)F)C1=CC=C(C=C1)OC | C20H19FN2O3
